US07176224B2
C. 2-(4-Hydroxybenzyl)-2-phenoxybutyric acid ethyl ester
2-(4-Benzyloxybenzyl)-2-phenoxybutyric acid ethyl ester (2.1 mmol) was dissolved in ethyl acetate (30 mL) and treated with 5% palladium on carbon (300 mg), and stirred under an atmosphere of hydrogen for 20 h. The suspension was filtered through celite and concentrated in vacuo to an oil.

reactant | 2-(4-Benzyloxybenzyl)-2-phenoxybutyric acid ethyl ester | 2.1 mmol | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C26H28O4
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 2-(4-Hydroxybenzyl)-2-phenoxybutyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
